US04871746
To a cold (0° C.) solution of 3.23 g. (5.43 mmol) of diethyl N-[N-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-ylmethyl)-4-aminomethylbenzoyl]-glutamate in 50 mL of methylene chloride was added in a dropwise fashion over 10 min, 2.28 g. (10.86 mmol) of trifluoroacetic acid anhydride. The reaction mixture was allowed to attain room temperature and then stirred for 18 hours. One hundred milliliters of methylene chloride were added and the mixture then extracted three times with a saturated solution of sodium bicarbonate. The aqueous layers were back extracted with methylene chloride and the combined organic layers dried over anhydrous magnesium sulphate. The suspension was filtered and the filtrate evaporated under reduced pressure to give a quantitative yield of crude diethyl N-[N-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-ylmethyl)-N-trifluoroacetyl-4-aminomethylbenzoyl]-glutamate which can be employed in the subsequent steps without further purification.

reactant | diethyl N-[N-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-ylmethyl)-4-aminomethylbenzoyl]-glutamate | 5.43 mmol | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)CNCC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)O | C30H38N6O7
reactant | trifluoroacetic acid anhydride | 10.86 mmol | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | One hundred milliliters | C(Cl)Cl | CH2Cl2
product | diethyl N-[N-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-ylmethyl)-N-trifluoroacetyl-4-aminomethylbenzoyl]-glutamate | quantitative yield | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)CN(C(C(F)(F)F)=O)CC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)O | C32H37F3N6O8
